US06878700B1
(2-Bromophenyl)[2-chloro-4-(E-((3-(hydroxymethyl)piperidin-1-yl)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-bromothiophenol, 2-chlorobenzaldehyde with 3-chloro-4-fluoro-benzaldehyde, and 6-amino-1-hexanol with 3-hydroxymethylpiperidine. 1H NMR (DMSO-d6, 300 MHz) δ 8.07 (d, J=17.7 Hz, 1H), 7.80 (d, J=7.7 Hz, 1H), 7.63 (br d, J=7.7 Hz, 1H), 7.44 (d, J=7.0 Hz, 1H), 7.40 (br s, 2H), 7.35 (m, 1H), 7.25 (dd 7.7, 1.5, 1H), 7.06 (dd, J=8.1, 2.9, 1H), 4.57 (m, 1H), 4.45 (m, 1H), 4.16 (br m, 2H), 1.2-1.8 (m, 8H). HRMS calculated for C21H21N1O2S1Br1Cl1: 466.0243. Observed: 466.0247.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-bromothiophenol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-chloro-4-fluoro-benzaldehyde | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 3-hydroxymethylpiperidine | OCC1CNCCC1 | C6H13NO
product | (2-Bromophenyl)[2-chloro-4-(E-((3-(hydroxymethyl)piperidin-1-yl)carbonyl)ethenyl)phenyl]sulfide | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1CC(CCC1)CO)Cl | C21H21BrClNO2S
